US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-hydroxyethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine (2.49 g, 4.75 mmol) (obtained as described in Reference Example 59(1)) in anhydrous tetrahydrofuran (100 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (5.70 ml, 5.70 mmol) in an ice bath. The mixture was stirred in the ice bath for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford 3-hydroxy-1-{4-[N-(2-hydroxyethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine (1.33 g, yield 98%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-hydroxyethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine | 4.75 mmol, 2.49 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CCO)=O | C28H37N3O3SSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.70 mmol, 5.70 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[N-(2-hydroxyethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine | 1.33 g, yield 98% | OC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CCO)=O | C12H19N3O3S
